US07268135B2
3-Methyl-2-[4′-(3-methyl-quinolin-2-yloxymethyl)-biphenyl-4-sulfonylamino]-butyric acid methyl ester (203 mg, 0.39 mmol, 1 equiv.) was dissolved in THF (8 mL) and MeOH (4 mL) and hydrolyzed with 1N NaOH (5.83 mL, 5.83 mmol, 13 equiv.). After stirring for 3 days, solvent was removed and the residue was dissolved in H2O. The mixture was then acidified to pH 3 using 1N HCl. Solid precipitated from the mixture was collected by filtration and washed with water. After drying in vacuum oven, 101 mg of 3-Methyl-2-[4′-(3-methyl-quinolin-2-yloxymethyl)-biphenyl-4-sulfonylamino]-butyric acid was obtained in 76.3% yield.

reactant | 3-Methyl-2-[4′-(3-methyl-quinolin-2-yloxymethyl)-biphenyl-4-sulfonylamino]-butyric acid methyl ester | 0.39 mmol, 203 mg, 1 equiv. | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)COC1=NC2=CC=CC=C2C=C1C)=O | C29H30N2O5S
reactant | MeOH | 4 mL | CO | CH4O
reactant | NaOH | 5.83 mmol, 1N, 5.83 mL, 13 equiv. | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-Methyl-2-[4′-(3-methyl-quinolin-2-yloxymethyl)-biphenyl-4-sulfonylamino]-butyric acid | 101 mg, 76.3% yield | CC(C(C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)COC1=NC2=CC=CC=C2C=C1C)C | C28H28N2O5S
